.SUBCKT LT1792 3 2 7 4 6
XLT1792  3  2  7  4  6  LT1792MD
** nested subcircuit: LT1792MD
.SUBCKT LT1792MD 1 2 3 4 5
*
* input range / phase reversal protection
RIP1 1 111 1.0000e+002
RIP2 2 112 1.0000e+002
DIP1 114 111 DX
DIP2 115 112 DX
DIP3 116 114 DX
DIP4 116 115 DX
VCM 116 4 DC 5.1250e+000
RCMP 114 117 1.0000e+004
ECMP 117 4 111 4 1.0
RCMN 115 118 1.0000e+004
ECMN 118 4 112 4 1.0
*
* input stage
CIN 111 112 1.5400e-012
CIC1 111 99 1.3860e-011
CIC2 112 99 1.3860e-011
GRIN 111 112 111 112 1.0000e-011
M1 11 112 10 10 M1 L=25U W=25U
M2 12 113 10 10 M2 L=25U W=25U
RD1 3 11 ROVD1 9.5238e+002
RD2 3 12 ROVD2 9.5238e+002
DI1 113 3 DI1
DI2 112 3 DI2
C1 11 12 8.3556e-012
IEE 10 4 DC 2.1000e-003
GA 60 99 11 12 1.0500e-003
*
* noise sources
IR1 0 101 DC 1
IR2 0 102 DC 1
DR1 101 0 DRI
DR2 102 0 DRI
GRI1 99 1 101 102 1.4838e-004
IR3 0 103 DC 1
IR4 0 104 DC 1
DR3 103 0 DRI
DR4 104 0 DRI
GRI2 99 2 103 104 1.4838e-004
RRu 605 0 2.2569e+000
VRu 605 0 DC 0
FRu 99 60 VRu 1
*
* common mode rejection
GCM1 99 20 POLY(2) 111 99 112 99 0 5.0000e-004 5.0000e-004
RCM1 21 99 1.000000e+003
RCM2 20 99 1.0000e+006
LCM 20 21 1.5915e-002
ECM 113 111 20 99 5.6234e-006
*
* frequency shaper
RP1 601 99 2.6316e+003
CP1 60 601 2.5200e-011
RP11 60 99 1.0000e+004
GP1 99 61 60 99 1.0000e-004
RP2 611 99 1.3158e+004
LP2 61 611 8.7256e-004
RP22 61 99 4.1667e+004
GP2 99 6 61 99 1.0000e-004
*
* output stage
R2 6 99 1.0000e+003
C2 6 7 6.1765e-010
GB 7 99 6 99 2.6884e+003
R01 7 99 6.3900e+001
R02 7 50 1.0000e-001
R03 50 5 5.6000e+001
R04 5 99 5.9379e+009
VC 53 50 DC 1.0920e+000
VE 54 50 DC -1.2420e+000
DC1 53 55 DVC
DC2 55 56 DVC
DE1 57 54 DVC
DE2 58 57 DVC
GVC1 3 56 3 56 1.0E-4
GVE1 4 58 4 58 1.0E-4
GVC2 3 55 3 55 1.0E-5
GVE2 4 57 4 57 1.0E-5
GVLP 99 60 56 3 1.0000e+000
GVLN 99 60 58 4 1.0000e+000
ECLP 91 0 7 50 6.6667e+002
ECLN 92 0 7 50 6.6667e+002
DCLP 91 90 DX
DCLN 90 92 DX
VLIM 90 0 DC 0
FB 7 99 VLIM 1.0820e+002
*
* supply characteristic
EGND 99 0 POLY(2) 3 0 4 0 0 0.5 0.5
DSUB 4 3 DX
IP 3 4 DC 2.1000e-003
*
GPC 31 0 7 50 1.0000e+001
DPC1 3 31 DVC
DPC2 32 4 DVC
RPC1 31 32 1.0E6
RPC2 31 33 9.7531
EPC 33 32 3 4 1.0
*
.MODEL DX D (IS=8.2592e-016 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
.MODEL DVC D (IS=8.2592e-016 RS=0 XTI=-2.1 N=0.1 EG=0.1 CJO=0 IBV=1.0E-10 TT=0)
.MODEL M1 NMOS (LEVEL=3 KP=2.5574e-001 VTO=1.000100e+000 KF=5.8919e-029)
.MODEL M2 NMOS (LEVEL=3 KP=2.5574e-001 VTO=9.999000e-001 KF=5.8919e-029)
.MODEL ROVD1 RES (TC1=-4.6991e-005)
.MODEL ROVD2 RES (TC1=4.6991e-005)
.MODEL DI1 D (IS=3.5000e-010 EG=1.0381e-001 XTI=3.0000e+000 CJO=0 IBV=1.0E-10 TT=0)
.MODEL DI2 D (IS=2.5000e-010 EG=1.1252e-001 XTI=3.0000e+000 CJO=0 IBV=1.0E-10 TT=0)
.MODEL DRI D (IS=8.2592e-016 KF=1.0442e-016 RS=0 XTI=1 CJO=0 IBV=1.0E-10 TT=0)
.ENDS LT1792MD
** end nested subcircuit: LT1792MD
.ENDS LT1792
